US04251398
313 g (2.37 Mole) of cinnamic aldehyde, 290 g (4.03 Mole) of ethyl vinyl ether and 45 g of hydroquinone were heated at 200° for 16 hours in a 1 l stainless steel autoclave (pressure about 20 atm.). After fractional distillation of the crude material thus obtained, there were isolated 422 g (87% yield) of 2-ethoxy-4-phenyl-3,4-dihydro-2H-pyran, b.p. 89°/0.02 Torr;

reactant | cinnamic aldehyde | 2.37 Mole, 313 g | C1=CC=C(C=C1)/C=C/C=O | C9H8O
reactant | ethyl vinyl ether | 4.03 Mole, 290 g | C(=C)OCC | C4H8O
reactant | hydroquinone | 45 g | C1(O)=CC=C(O)C=C1 | C6H6O2
product | 2-ethoxy-4-phenyl-3,4-dihydro-2H-pyran | 422 g, 87% yield | C(C)OC1OC=CC(C1)C1=CC=CC=C1 | C13H16O2
